US04082851
To a stirred mixture of lithium aluminium hydride (12.5 g) and dry dioxane (250 ml), a solution of ethyl 3-amino-4-phenoxy-5-sulfamylbenzoate (50 g) in dry dioxane (250 ml) is dropwise added at 90° C during about one hour. After additonal stirring and heating for 3 hours the mixture is cooled, and ethyl acetate (25 ml) followed by water (50 ml) and 4 N acetic acid (310 ml) are very cautiously added dropwise. The solvents are thereafter removed in vacuo, and the residue is extracted with ethyl acetate (1 liter). The insoluble inorganic material is removed by filtration, and the filtrate is washed with aqueous sodium hydrogen carbonate and with water, and is then dried in the presence of magnesium sulphate. After filtration, the solvent is removed in vacuo to yield crude 3-amino-4-phenoxy-5-sulfamylbenzyl alcohol. After recrystallization from aqueous ethanol it is obtained with a melting point of 170° C.

reactant | lithium aluminium hydride | 12.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 3-amino-4-phenoxy-5-sulfamylbenzoate | 50 g | NC=1C=C(C(=O)OCC)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C15H16N2O5S
reactant | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 50 ml | O | H2O
solvent | dioxane | 250 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 250 ml | O1CCOCC1 | C4H8O2
solvent | acetic acid | 4 N, 310 ml | C(C)(=O)O | C2H4O2
product | 3-amino-4-phenoxy-5-sulfamylbenzyl alcohol | NC=1C=C(CO)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C13H14N2O4S
